US04490307
There were present in a stirring apparatus 577.5 grams of a 40% sodium trithiocarbonate solution (corresponding to 1.5 moles). Under stirring at -10° C. there were dropped in 128 grams of isobutyl acrylate (1.0 mole). Post stirring was continued for a further 10 minutes and then the mixture was acidified with 350 ml of 32% hydrochloric acid. After the phase separation the organic phase was fractionally distilled. There were obtained 128 grams of mercaptopropionic acid isobutyl ester (corresponding to a yield of 79%).

reactant | sodium trithiocarbonate | 1.5 moles | C([S-])([S-])=S.[Na+].[Na+]
reactant | isobutyl acrylate | 1.0 mole, 128 grams | C(C=C)(=O)OCC(C)C | C7H12O2
solvent | hydrochloric acid | 350 ml | Cl | ClH
product | mercaptopropionic acid isobutyl ester | 128 grams, yield of 79% | C(C(C)C)OC(C(C)S)=O | C7H14O2S
